US03985880
1H, 3H-Oxazolo[3,4-a]perimidine-3-one
Equivalent quantities of 2-perimidinemethanol and sodium hydride are heated for 1/2 hour in dimethoxyethane. After the evolution of hydrogen has stopped, ethyl chloroformate is added to the solution, and the resulting mixture is stirred for 3 hours, poured into water and the separated solid collected and recrystallized twice from dimethoxyethane to give the desired product, 1H, 3H-oxazolo[3,4-a]perimidine-3-one, m.p. 194°-195°.

reactant | 2-perimidinemethanol | N1C(=NC2=CC=CC3=CC=CC1=C23)CO | C12H10N2O
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | dimethoxyethane | C(OC)COC | C4H10O2
solvent | water | O | H2O
product | 3H-oxazolo[3,4-a]perimidine-3-one | C1=CC(C2=CC=CC3=NC=4N(C1=C32)COC4)=O | C13H8N2O2
